US07964608B2
1-Cyclopentyl-7-methoxy-3-(3-methoxy-phenyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (32 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-isocyanato-3-methoxy-benzene (0.5 mmol) following general procedure C. LCMS: m/z 418 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.50 (s, 1H), 7.86 (d, 1H), 7.64 (t, 1H), 7.44 (t, 1H), 7.30 (d, 1H), 6.82 (dd, 1H), 6.60 (d, 1H), 6.28 (s, 1H), 5.04 (p, 1H), 4.17 (s, 3H), 3.80 (s, 3H), 2.40 (m, 2H), 2.04-2.20 (m, 4H), 1.24 (m, 2H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-isocyanato-3-methoxy-benzene | 0.5 mmol | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
product | 1-Cyclopentyl-7-methoxy-3-(3-methoxy-phenyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 32 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)OC)=O | C24H23N3O4
